US08039460B2
Step E: Benzyl 4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate
Copper(II) chloride (anhydrous; 2.02 g, 15.05 mmol) was added to a solution of benzyl 4-(6-methyl-3-oxo-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate (2.48 g, 7.53 mmol) in acetonitrile (26 mL). The reaction mixture was heated at 90° C. After 18 h, the mixture was cooled to ambient temperature and concentrated. The residue was diluted with dichloromethane and 1 N HCl. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were dried over magnesium sulfate and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) to give the title compound (1.45 g). MS 328.2 (M+1).

reactant | benzyl 4-(6-methyl-3-oxo-2,3,4,5-tetrahydropyridazine-4-yl)piperidine-1-carboxylate | 7.53 mmol, 2.48 g | CC=1CC(C(NN1)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H23N3O3
solvent | acetonitrile | 26 mL | C(C)#N | C2H3N
catalyst | Copper(II) chloride | 15.05 mmol, 2.02 g | [Cu](Cl)Cl
product | Benzyl 4-(6-methyl-3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate | 1.45 g | CC=1C=C(C(NN1)=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H21N3O3
